US07495016B2
7.6 Preparation of 3-[4-(3-cyclopentyloxy-4-hydroxyphenyl)-2-oxo-pyrrolidin-1-yl]-benzonitrile according to General Procedure IX
200 mg of Pd—C was added to 3-[4-(4-benzyloxy-3-cyclopentyloxyphenyl)-2-oxo-pyrrolidin-1-yl]-benzonitrile (1.7 g. 3.8 mmol) in EtOH/EtOAc and flushed with H2 three times. The mixture was then stirred under H2 at r.t. for 72 h. The mixture was filtered through celite and then concentrated under reduced pressure. The residue was then dissolved in EtOAc and washed with 2N HCl, sat. NaHCO3, and sat. NaCl. Purification by silica gel gave 350 mg of the desired product. Yield: 26%.

reactant | 3-[4-(4-benzyloxy-3-cyclopentyloxyphenyl)-2-oxo-pyrrolidin-1-yl]-benzonitrile | 3.8 mmol, 1.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O)OC1CCCC1 | C29H28N2O3
solvent | EtOH EtOAc | CCO.CCOC(=O)C
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | 3-[4-(3-cyclopentyloxy-4-hydroxyphenyl)-2-oxo-pyrrolidin-1-yl]-benzonitrile | 350 mg, Yield: 26% | C1(CCCC1)OC=1C=C(C=CC1O)C1CC(N(C1)C=1C=C(C#N)C=CC1)=O | C22H22N2O3
